US05869485
4.78 g of 4-(4-fluorophenyl)-1-phenyl-2-amino-3-cyanopyrrole are heated at 180° C. with a spatula tipful of dimethylaminopyridine for 3.5 h in 50 ml of formamide under a nitrogen atmosphere. After cooling to RT, the mixture is treated with water and extracted 3 times with EA. The organic phases are washed with water, dried over Na2SO4 and concentrated. The residue is slurried with EA/ether and the crystals are filtered off. The crystals are suspended in hot ethanol and filtered off after cooling to RT. 5-(4-Fluorophenyl)-7-phenyl-4-aminopyrrolo[2,3-d]pyrimidine having a melting point of 202°-203° C. is obtained. 1H--NMR (d6 -DMSO): delta (ppm)=6.3 (br. s, 2H), 7.3-7.4 (m, 3H), 7.5-7.65 (m, 4H), 7.75 (s, 1H), 7.85 (d, 2H), 8.2 (s,1H).

reactant | 4-(4-fluorophenyl)-1-phenyl-2-amino-3-cyanopyrrole | 4.78 g | FC1=CC=C(C=C1)C=1C(=C(N(C1)C1=CC=CC=C1)N)C#N | C17H12FN3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
reactant | formamide | 50 ml | C(=O)N | CH3NO
product | 5-(4-Fluorophenyl)-7-phenyl-4-aminopyrrolo[2,3-d]pyrimidine | FC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC=CC=C2 | C18H13FN4
